US07846960B2
(+/−)-3-Nitro-benzenesulfonic acid 3-{4-[2-(2,6-dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-butyl Ester
To a solution of (+/−)-3-{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-butan-1-ol (0.245 g, 0.548 mmol) in dichloromethane (10 mL) is added triethylamine (0.15 mL, 1.09 mmol). After 10 minutes, m-nitrobenzene sulfonyl chloride (0.243 g, 1.09 mmol) is added. The reaction is stirred at room temperature for 4 hours and the reaction mixture is concentrated under reduced pressure. The residue is dissolved in ethyl acetate and is washed with water and brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to give the title compound. 1H NMR (CDCl3) δ 1.1 (d, 3H), 1.28 (d, 6H), 1.62 (s, 2H), 1.85-1.95 (m, 2H), 2.17 (s, 3H), 2.91-3.039 (m, 2H), 3.85-3.95 (m, 1H), 4.04-4.12 (m, 2H), 4.74 (s, 2H), 6.45 (d, 1H), 6.51 (dd, 1H), 6.86 (d, 1H), 7.26 (t, 1H), 7.38 (d, 2H), 7.65 (t, 3H), 8.1 (d, 1H), 8.39 (d, 1H), 8.63 (s, 1H);

reactant | (+/−)-3-{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-butan-1-ol | 0.548 mmol, 0.245 g | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1COC1=CC(=C(C=C1)C(CCO)C)C)C(C)C | C24H28Cl2N2O2
reactant | triethylamine | 1.09 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | m-nitrobenzene sulfonyl chloride | 1.09 mmol, 0.243 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (+/−)-3-Nitro-benzenesulfonic acid 3-{4-[2-(2,6-dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-butyl Ester | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1COC1=CC(=C(C=C1)C(CCOS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])C)C)C(C)C | C30H31Cl2N3O6S
